US07399775B2
6-[(4-Chlorophenylsulfonyl)(2.5-difluorophenyl)methyl]nicotinic acid N′-(furan-2-carbonyl) hydrazide
Triethylamine (32 μl, 0.23 mmol), 4-dimethylaminopyridine (12 mg, 0.095 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (44 mg, 0.23 mmol) and 2-furancarboxylic acid hydrazide (29 mg, 0.23 mmol) were added to a solution of the [6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-3-yl]carboxylic acid (80 mg, 0.19 mmol), which had been obtained in Example 338, in dichloromethane (5 ml). The resulting mixture was stirred at room temperature for 7.5 hours. The reaction mixture was diluted with dichloromethane, followed by successive washing with water, a saturated aqueous solution of sodium bicarbonate and brine. The organic layer thus obtained was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was subjected to flash chromatography on a silica gel colunm and a fraction obtained from the elution portion with dichloromethane:methanol=50:1 was concentrated under reduced pressure. The solid thus obtained was recrystallized from dichloromethane-hexane, whereby the title compound (58 mg, 0.11 mmol, 58%) was obtained as a white powder.

reactant | Triethylamine | 0.23 mmol, 32 μl | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.23 mmol, 44 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-furancarboxylic acid hydrazide | 0.23 mmol, 29 mg | O1C(=CC=C1)C(=O)NN | C5H6N2O2
reactant | [6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-3-yl]carboxylic acid | 0.19 mmol, 80 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=N1)C(=O)O)C1=C(C=CC(=C1)F)F | C19H12ClF2NO4S
catalyst | 4-dimethylaminopyridine | 0.095 mmol, 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | 6-[(4-Chlorophenylsulfonyl)(2.5-difluorophenyl)methyl]nicotinic acid N′-(furan-2-carbonyl) hydrazide | 0.11 mmol, 58 mg, 58% | O1C(=CC=C1)C(=O)NNC(C1=CN=C(C=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C24H16ClF2N3O5S
